US04175188
(b) Production of 4-Amino-6-(1-methyl-cyclopropyl)-3-mercapto-1,2,4-triazin-5-one
183 grams of (1-methyl-cyclopropyl)-glyoxalic acid-tert.-butylamide and 112 grams of thiocarbohydrazide were added to a mixture of 1 liter of 1 normal HCl and 1 liter of ethanol. The mixture was boiled under reflux for 8 hours, cooled, diluted with 2 liters of water and the crystals filtered off with suction. There were obtained white crystals with a yellow luster which were dried.

reactant | (1-methyl-cyclopropyl)-glyoxalic acid-tert.-butylamide | 183 grams | C(C)(C)(C)NC(C(=O)C1(CC1)C)=O | C10H17NO2
reactant | thiocarbohydrazide | 112 grams | NNC(=S)NN | CH6N4S
reactant | HCl | Cl | ClH
reactant | ethanol | 1 liter | C(C)O | C2H6O
solvent | water | 2 liters | O | H2O
product | 4-Amino-6-(1-methyl-cyclopropyl)-3-mercapto-1,2,4-triazin-5-one | NN1C(=NN=C(C1=O)C1(CC1)C)S | C7H10N4OS
